US07777047B2
N-methyl-N-(2-{5-[(3-oxopyrrolidin-1-yl)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide dihydrochloride
To a mixture of N-[2-(5-formyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide (200 mg), pyrrolidin-3-one hydrochloride (120 mg), triethylamine (150 μL) and tetrahydrofuran (5 mL) was added sodium triacetoxyborohydride (210 mg), and the mixture was stirred at room temperature for 10 min. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give a colorless oil from a fraction eluted with ethyl acetate. The colorless oil was dissolved in ethyl acetate (3 mL), and 4N hydrogen chloride-ethyl acetate solution (1 mL) was added. The precipitated solid was collected by filtration, washed with diethyl ether, and dried to give the title compound (110 mg, yield 40%) as a yellow amorphous solid. MS: 470 (MH+).

reactant | N-[2-(5-formyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide | 200 mg | C(=O)C1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C | C18H16N4O3S2
reactant | pyrrolidin-3-one hydrochloride | 120 mg | Cl.N1CC(CC1)=O
reactant | sodium triacetoxyborohydride | 210 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 150 μL | C(C)N(CC)CC | C6H15N
product | N-methyl-N-(2-{5-[(3-oxopyrrolidin-1-yl)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide dihydrochloride | 110 mg, yield 40% | Cl.Cl.CN(S(=O)(=O)C1=NC=CC=C1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1CC(CC1)=O | InChI=1S/C22H23N5O3S2.2ClH/c1-26(32(29,30)20-7-2-3-9-23-20)19-6-4-5-15-11-18(25-21(15)19)22-24-12-17(31-22)14-27-10-8-16(28)13-27;;/h2-7,9,11,17,25H,8,10,12-14H2,1H3;2*1H
